US06660744B1
Cis-tert-butyl N-(4-{4-amino-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}phenyl)carbamate (4.0 g, 0.0079 mol) was triturated in anhydrous dichloromethane (75 mL) and the reaction mixture was cooled to 0° C. Trifluoroacetic acid (10 mL) was added dropwise and the resulting solution was warmed up to ambient temperature and stirred under an atmosphere of nitrogen for 1.5 hours. The solvents were removed under reduced pressure, the residue suspended in water (70 mL) and basified with saturated aqueous sodium bicarbonate solution. It was extracted with dichloromethane (3×150 mL), the combined organic extracts were dried with magnesium sulfate and the solvent was removed under reduced pressure to yield cis-3-(4-aminophenyl)-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine (3.0 g, 0.00739 mol) as an off-white solid.

reactant | Cis-tert-butyl N-(4-{4-amino-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}phenyl)carbamate | 0.0079 mol, 4.0 g | NC1=C2C(=NC=N1)N(N=C2C2=CC=C(C=C2)NC(OC(C)(C)C)=O)[C@@H]2CC[C@@H](CC2)N2CCN(CC2)C | C27H38N8O2
reactant | Trifluoroacetic acid | 10 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 75 mL | ClCCl | CH2Cl2
product | cis-3-(4-aminophenyl)-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 0.00739 mol, 3.0 g | NC1=CC=C(C=C1)C1=NN(C2=NC=NC(=C21)N)[C@@H]2CC[C@@H](CC2)N2CCN(CC2)C | C22H30N8
